US06395446B1
Synthesis of cyclohexylsulfonyl(4-acetyloxyphenylsulfonyl)diazomethane
The cyclohexylsulfonyl(4-acetyloxyphenylsulfonyl)methane in Synthesis Example 12, 5 g (0.014 mol), was dispersed in 100 g of dichloromethane. To the dispersion was added 2.3 g (0.015 mol) of p-toluenesulfonylazide. With stirring under ice cooling, 2.9 g (0.015 mol) of DBU was added to the dispersion, and after 10 minutes, 55 g of a 0.2N aqueous hydrochloric acid was added to stop reaction. The organic layer was separated and washed with 50 g of water. The organic layer was concentrated and 6 g of the residue was purified by silica gel column chromatography using dichloromethane as an elute. The thus obtained oily product was combined with 20 g of hexane for crystallization, followed by filtration and vacuum drying. There was obtained 2 g (yield 34%) of fine yellow crystals.

reactant | cyclohexylsulfonyl(4-acetyloxyphenylsulfonyl)methane | C1(CCCCC1)S(=O)(=O)CS(=O)(=O)C1=CC=C(C=C1)OC(C)=O | C15H20O6S2
reactant | p-toluenesulfonylazide | 0.015 mol, 2.3 g | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
reactant | DBU | 0.015 mol, 2.9 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | hydrochloric acid | 0.2N | Cl | ClH
solvent | dichloromethane | 100 g | ClCCl | CH2Cl2
product | cyclohexylsulfonyl(4-acetyloxyphenylsulfonyl)diazomethane | 2 g, yield 34% | C1(CCCCC1)S(=O)(=O)C(=[N+]=[N-])S(=O)(=O)C1=CC=C(C=C1)OC(C)=O | C15H18N2O6S2
